US07572808B2
D. Preparation of 8-chloro-7-p-tolyl-[1,2,4]triazolo[4,3-a]pyridin-3(2H)-one
To a stirred solution of triphosgene (2.64 g, 8.9 mmol) in THF (25 mL) at room temperature under argon was added 1-(3-chloro-4-p-tolylpyridin-2-yl)hydrazine (0.692 g, 3.0 mmol). The reaction mixture was stirred at room temperature for 16 h. Analysis by HPLC/MS indicated that starting material had been consumed. Water (25 mL) was added while stirring. The resulting suspension was heated at 100° C. for 40 h. Upon cooling to room temperature, the desired product was filtered and further washed with water (15 mL×2). After drying in a vacuum oven under reduced pressure overnight, 562 mg of the title compound was obtained as a white solid. HPLC/MS: retention time=2.98 min, [M+H]+=260.

reactant | triphosgene | 8.9 mmol, 2.64 g | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | 1-(3-chloro-4-p-tolylpyridin-2-yl)hydrazine | 3.0 mmol, 0.692 g | ClC=1C(=NC=CC1C1=CC=C(C=C1)C)NN | C12H12ClN3
solvent | THF | 25 mL | C1CCOC1 | C4H8O
product | 8-chloro-7-p-tolyl-[1,2,4]triazolo[4,3-a]pyridin-3(2H)-one | 562 mg | ClC=1C=2N(C=CC1C1=CC=C(C=C1)C)C(NN2)=O | C13H10ClN3O
